US09278974B2
A mixture of 4-chloro-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine (50 mg, 0.19 mmol), phenylboronic acid (73 mg, 0.60 mmol) and anhydrous K2CO3 (82 mg, 0.59 mmol) in toluene (3 mL) was introduced in a microwave vial. It was degassed by argon for 30 minutes followed by the addition of Pd(PPh3)4 (4.0 mg, 0.003 mmol) after which the mixture was degassed for 10 additional minutes. The mixture was stirred at 150° C. for 30 min under microwave irradiation (150 W). After cooling to rt, the mixture was filtered on decalite and the solvent was removed at reduced pressure. The crude was purified by flash chromatography to provide 4-phenyl-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine as a white solid (19.1 mg, 0.06 mmol, 33%).

reactant | 4-chloro-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.19 mmol, 50 mg | ClC1=C2C(=NC=N1)N(N=C2)CCN2CCCCC2 | C12H16ClN5
reactant | phenylboronic acid | 0.60 mmol, 73 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.59 mmol, 82 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.003 mmol, 4.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-phenyl-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.06 mmol, 19.1 mg, 33% | C1(=CC=CC=C1)C1=C2C(=NC=N1)N(N=C2)CCN2CCCCC2 | C18H21N5
